US07504401B2
(According to Effenberger, Chem. Ber. 163 (1991).) 1,3-dibromo-5-nitrobenzene (2.81 g, 10.0 mmol), freshly powdered potassium hydroxide (1.00 g, 17.8 mmol) and tetrabutylammonium bromide (0.32 g, 1.00 mmol) were dissolved in tetramethyl urea (TMU, 8 mL). Oxygen was bubbled through the reaction mixture for 5 min and a solution of benzyl alcohol (1.30 g) in TMU (2 mL) was added drop-wise at room temperature over a period of 1 h. The mixture was stirred for 6 h at room temperature during which oxygen was bubbled through. The reaction mixture was poured on ice (30 g) and was extracted with tert-butylmethyl ether (2×50 mL). The combined organics were dried (MgSO4) and concentrated to give the crude product which was purified by FC (120 g SiO2, AcOEt/heptane 1:4) to provide 3.15 g (92%) of 3,5-dibromo-1-benzyloxybenzene.

reactant | 1,3-dibromo-5-nitrobenzene | 10.0 mmol, 2.81 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])Br | C6H3Br2NO2
reactant | potassium hydroxide | 17.8 mmol, 1.00 g | [OH-].[K+]
reactant | tetramethyl urea | 8 mL | CN(C(N(C)C)=O)C | C5H12N2O
catalyst | tetrabutylammonium bromide | 1.00 mmol, 0.32 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3,5-dibromo-1-benzyloxybenzene | 3.15 g, 92% | BrC=1C=C(C=C(C1)Br)OCC1=CC=CC=C1 | C13H10Br2O
